US07790720B2
A 2 N aqueous solution of sodium hydroxide (10 ml, 20.3 mmol, 3 eq) is added dropwise to a solution of ethyl 2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole-4-carboxylate i33 (2.1 g, 6.8 mmol, 1 eq) in ethanol (60 ml). The mixture is refluxed for 2 h 30 and the solvent is evaporated. The residue is taken up in water and acidified to pH 2 with a 2 N hydrochloric acid solution. The solid that precipitates is filtered off and washed with water to give 1.5 g of 2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole-4-carboxylic acid i34.

reactant | sodium hydroxide | 20.3 mmol, 10 ml, 3 eq | [OH-].[Na+]
reactant | ethyl 2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole-4-carboxylate | ClCCCOC1=CC=C(C=C1)C=1OC=C(N1)C(=O)OCC | C15H16ClNO4
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-[4-(3-chloropropoxy)phenyl]-1,3-oxazole-4-carboxylic acid | 1.5 g, Yield: 79% | ClCCCOC1=CC=C(C=C1)C=1OC=C(N1)C(=O)O | C13H12ClNO4
